US05470980
Bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate
The procedure of Example 1 is repeated using 24.1 g of 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol, 6.67 g of dimethyl hydrazine-1,2-dicarboxylate and 1.5 g of tetrabutyl titanate to afford 14.6 g of the title compound as a white solid; mp 150°-152° C.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol | 24.1 g | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | dimethyl hydrazine-1,2-dicarboxylate | 6.67 g | N(NC(=O)OC)C(=O)OC | C4H8N2O4
catalyst | tetrabutyl titanate | 1.5 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | Bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate | 14.6 g | N(NC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C32H58N4O6
